US07728010B2
Step 4. 4-[1-Methyl-2-(3-trifluoromethylsulfanyl-phenylamino)-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide
A flask was charged with 3-(trifluoromethylthio)phenylisothiocyanate (1 eq), 4-(3-amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide (1 eq), and MeOH. The reaction was maintained at rt overnight. Ferric chloride, (1.5 eq) was added and the resulting red reaction mixture was stirred overnight. The reaction was partitioned with EtOAc and water, and filtered through Celite. The layers were separated and the aqueous phase was neutralized with saturated Na2CO3 solution. The resulting aqueous phase was extracted with EtOAc and the mixture was filtered through Celite. The phases were separated and the aqueous phase was again extracted and filtered. The combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated to give a brown solid. The crude residue was purified by reverse phase HPLC. LCMS m/z 504.1 (MH+), tR=3.7 min.

reactant | 3-(trifluoromethylthio)phenylisothiocyanate | 1 eq | FC(SC=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS2
reactant | 4-(3-amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide | 1 eq | OCCNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)N | C15H18N4O3
solvent | MeOH | CO | CH4O
product | 4-[1-Methyl-2-(3-trifluoromethylsulfanyl-phenylamino)-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N(C(=N2)NC2=CC(=CC=C2)SC(F)(F)F)C)C=C1 | C23H20F3N5O3S
